US07732435B2
Isobutyric acid 6-[2-(4-chlorophenyl)acetyl]-2,3-difluorophenyl ester
A solution of 2-(4-chlorophenyl)-1-(3,4-difluoro-2-hydroxy-phenyl)-ethanone (4.5 g, 87% pure, 13.85 mmol) and triethylamine (1.7 g, 2.35 ml, 16.8 mmol, 1.2 eq.) in methylene chloride (100 ml) is treated dropwise at ambient temperature with isobutyryl chloride (1.79 g, 1.76 ml, 16.8 mmol, 1.2 eq.). After stirring for 5 h, the solution is washed successively with 2M HCl solution and saturated sodium hydrogen carbonate solution. The organic phase is dried over anhydrous magnesium sulphate, filtered and evaporated to dryness in vacuo to afford a black residue. This is triturated with methanol at room temperature overnight to afford a brown solid, which is filtered and washed with methanol. The solid is purified twice by flash chromatography (ethyl acetate/cyclohexane=1:9) to furnish the title compound.

reactant | 2-(4-chlorophenyl)-1-(3,4-difluoro-2-hydroxy-phenyl)-ethanone | 13.85 mmol, 4.5 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C(=C(C=C1)F)F)O | C14H9ClF2O2
reactant | triethylamine | 16.8 mmol, 2.35 ml, 1.7 g, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 16.8 mmol, 1.76 ml, 1.79 g, 1.2 eq. | C(C(C)C)(=O)Cl | C4H7ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isobutyric acid 6-[2-(4-chlorophenyl)acetyl]-2,3-difluorophenyl ester | ClC1=CC=C(C=C1)CC(=O)C1=CC=C(C(=C1OC(C(C)C)=O)F)F | C18H15ClF2O3
